Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Cardiac cath ___, DES in LCx
 
History of Present Illness:
Pt is a ___ yo F with a PMHx significant for HLD, HTN, CVA, and
endometrial carcinoma (s/p hysterectomy) who presents with chest
pain with exertion for 5 days.  Chest pain similar to ___ 
when
she went to ___ to be evaluated, CT angio at the time was
negative per patient. 

Chest pain started 5 days ago, located in upper chest region,
radiates to neck, upper back, associated with nausea, shortness
of breath, no diaphoresis or pain down the arm. Worsens with
exertion, though occurs sporadically with exertion. Alleviated 
by
rest in ___ minutes. 

No fevers, cough, abdominal pain, diarrhea, constipation,
dysuria. Some leg swelling that waxes and wanes depending on
sodium intake. 

In the ED, initial VS were:
98.0 59 174/58 14 98% RA
Labs showed:
Trop <.01, negative UA, unremarkable chem 10, BNP 177,
unremarkable CBC  
Imaging showed:
CXR- no acute cardiopulmonary process 
Patient received:
___ 00:46 PO/NG Labetalol 25 mg 
___ 00:47 PO DiphenhydrAMINE  
___ 05:43 PO/NG Labetalol 25 mg   
___ 08:14 PO/NG Aspirin 325 mg  
___ 12:35 PO/NG Labetalol 25 mg   
___ 18:43 PO/NG Labetalol 25 mg  

Cardiology was consulted  
"Dr. ___ spoke with patient at length. Ultimately, 
decision
made for patient to be admitted for cor angio on ___. Will
place on White Board. Please admit to ___ 
Transfer VS were:
98.2 59 153/58 17 97% RA 

 
Past Medical History:
HYPERCHOLESTEROLEMIA                                            
HYPERTENSION                                                    
KNEE PAIN                                                       
LEG EDEMA                                                       
OBESITY                                                         
FIBROID UTERUS                                                  
ENDOMETRIAL CANCER   
HEART MURMUR
 
Social History:
___
Family History:
mother had heart disease, TIA, pace maker. died ___ years ago. in
her ___ with complcations. mother had ___ cancer 
Fathers side had diabetes. chain smoker, emphysema, just died. 
Younger sister heart attack at ___.
 
Physical Exam:
ADMISSION EXAM
==============
VS:  98.2 ___ R ___
GENERAL: NAD , sitting up, appears well, conversing 
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, no JVD  
HEART: RRR, ___ systolic murmur heard best at LUSB, no rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, trace edema b/l shins 
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

DISCHARGE EXAM
==============
VS: 97.3  132 / 72 53 20 97 RA   
GENERAL: NAD, appears well, conversing 
HEENT: AT/NC
HEART: RRR, ___ systolic murmur heard best at ___, no rubs
LUNGS: CTAB, no wheezes, rales, rhonchi 
ABDOMEN: Nondistended, nontender in all quadrants
EXTREMITIES: No cyanosis, clubbing, trace edema b/l shins   
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: Warm and well perfused, no excoriations or lesions, no
rashes  

 
Pertinent Results:
ADMISSION LABS
==============
___ 04:05PM BLOOD WBC-5.5 RBC-4.97 Hgb-14.7 Hct-45.7* 
MCV-92 MCH-29.6 MCHC-32.2 RDW-12.4 RDWSD-41.8 Plt ___
___ 04:05PM BLOOD Neuts-64.0 ___ Monos-6.4 Eos-4.0 
Baso-0.7 Im ___ AbsNeut-3.50 AbsLymp-1.34 AbsMono-0.35 
AbsEos-0.22 AbsBaso-0.04
___ 04:05PM BLOOD Plt ___
___ 04:05PM BLOOD Glucose-89 UreaN-22* Creat-0.9 Na-143 
K-4.7 Cl-104 HCO3-25 AnGap-14

NOTABLE LABS
============
___ 04:05PM BLOOD proBNP-177
___ 04:05PM BLOOD cTropnT-<0.01
___ 08:27PM BLOOD cTropnT-<0.01
___ 06:30AM BLOOD CK-MB-2 cTropnT-<0.01

IMAGING
=======
___ STRESS TEST
INTERPRETATION: This is a ___ year old woman referred form the
Emergency Room after negative serial markers and here for the 
evaluation
of chest pain. The patient exercised on a Modified ___ 
treadmill
protocol and stopped for ST elevation after the completion of 3 
minutes.
The peak estimated metabolic capacity was ___ METs, a low 
functional
capacity for age. There was chest and throat pain at rest (___) 
which
progressed to ___ with exercise. In recovery, there was back of 
neck
pain and upper back pain (___). Symptoms resolved by 10 minutes 
of
recovery. There were ischemic ECG changes (1-1.___levation 
in
AVR; 1-2mm horizontal ST depression in the inferolateral leads). 
The
rhythm was sinus with rare PACs. BLunted blood pressure and 
heart rate
responses to stress.
 
IMPRESSION: Poor functional exercise capacity. Anginal symptoms 
with
ischemic ECG changes to the low workload achieved. Blunted 
hemodynamic
response to exercise.

___ LEFT HEART CATH
Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery
The LMCA is long without narrowing.
* Left Anterior Descending
The LAD has a 40-50% ___ lesion.
The ___ Diagonal is minimally diseased.
* Circumflex
The Circumflex is Ostial 95%.
The ___ Marginal is minimally diseased.
* Right Coronary Artery
The RCA is minimally diseased.
The Right PDA is minimally diseased.
Interventional Details
Could not advance via radial approach despite long sheath. 
Switched to femoral. JL4 guide. Lesion
easily crossed. Pre-dilated with a 3.0. Stented with a 3.25 X 12 
mm DES. Difficult to remove radial sheath
afer intervention. Gave ntg, verapamil, nicardipine, papaverine, 
nitroglide, heavy sedation, Local block
block. Staightened sheath with wire and came out. Dr. ___ 
___ sheath out.
Impressions:
1. Ostial LCx treated with 12 mm DES.
Recommendations
1. DAPT, short, given stroke in past

Echo ___
Conclusions   
 The left atrial volume index is mildly increased. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). Doppler parameters are 
most consistent with Grade I (mild) left ventricular diastolic 
dysfunction. Right ventricular chamber size and free wall motion 
are normal. The aortic arch is mildly dilated. The aortic valve 
leaflets (3) are mildly thickened. There is mild aortic valve 
stenosis (valve area 1.2-1.9cm2). No aortic regurgitation is 
seen. The mitral valve appears structurally normal with trivial 
mitral regurgitation. The estimated pulmonary artery systolic 
pressure is normal. There is no pericardial effusion. 

 IMPRESSION: Normal global and regional biventricular systolic 
function. Mild calcific aortic stenosis.   

DISCHARGE LABS
==============

___ 07:35AM BLOOD WBC-6.2 RBC-4.38 Hgb-13.3 Hct-39.9 MCV-91 
MCH-30.4 MCHC-33.3 RDW-12.7 RDWSD-41.3 Plt ___
___ 07:35AM BLOOD Plt ___
___ 07:35AM BLOOD PTT-30.9
___ 07:35AM BLOOD Glucose-98 UreaN-17 Creat-0.8 Na-142 
K-3.7 Cl-104 HCO3-23 AnGap-15
___ 07:35AM BLOOD Calcium-9.3 Phos-3.1 Mg-2.1
 
Brief Hospital Course:
Ms. ___ is a ___ yo F with a PMHx significant for HLD, HTN, 
CVA, and endometrial carcinoma (s/p hysterectomy) who presented 
with chest pain with exertion for 5 days, positive stress test, 
s/p cath with DES to LCx.

ACTIVE ISSUES
=============
# Unstable angina: Worsening chest pain with exertion. No trop 
leak. Positive stress test with EKG changes. Cath showed 95 % 
occlusion of the LCX, drug eluting stent placed. Started on dual 
antiplatelet therapy with aspirin, ticragelor. Patient had 
hematoma at R radial artery site from angiography, but was 
decreasing in size upon d/c, vascular and neurologically 
remained intact. Given concerns for intolerance of statins in 
the past, patient agreeable to starting rosuvastatin 10mg, can 
be uptitrated as outpt. TTE after intervention demonstrated 
preserved EF, mild aortic stenosis.

# CVA: Work up at ___. No events in house. Continued ASA.

TRANSITIONAL ISSUES
===================
[] patient should f/u with PCP, requested new cardiologist at 
___ and appointment was scheduled
[] started on rosuvastatin 10mg QHS (given intolerance to 
statins in the past), can increase to high intensity if patient 
tolerating well
[] labetalol decreased from 25 q6 to q8 given often held for 
bradycardia, asx, patient resistant to starting other anti-HTNs 
given reactions to other meds in the past
[] f/u R radial artery site, eval for worsening hematoma?
[] should continue dual antiplatelet therapy until otherwise 
instructed by cardiology
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Labetalol 25 mg PO Q6H 
2. Aspirin 325 mg PO DAILY 
3. Co Q-10 (coenzyme Q10) ___  ___ DAILY 
4. Potassium Iodide Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Rosuvastatin Calcium 10 mg PO QPM 
RX *rosuvastatin [Crestor] 10 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*2 
2.  TiCAGRELOR 90 mg PO BID to prevent stent thrombosis 
RX *ticagrelor [Brilinta] 90 mg 1 tablet(s) by mouth twice per 
day Disp #*60 Tablet Refills:*1 
3.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 
4.  Co Q-10 (coenzyme Q10) 1 1 oral DAILY  
5.  Labetalol 25 mg PO Q8H  
6.  Potassium Iodide 300 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
1. Coronary artery disease Left Circumflenx 95% occlusion status 
post drug eluting stent

Secondary Diagnosis
2. Hypertension
3. hx of Cerebral Vascular Accident

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with chest pain. You had a 
stress test which showed there may be some blockage in the 
arteries supplying your heart. We performed a heart 
catheterization to take a more detailed look, and this showed 95 
% blockage of one of the arteries that feeds your heart. A stent 
was placed to open up this blockage. It is VERY important that 
you continue taking all of your medications to prevent the 
artery from becoming blocked again. It was a privilege to care 
for you in the hospital, and we wish you all the best.

Sincerely,

Your ___ Health Team
 
Followup Instructions:
___